US05659065
d1) 4(R)-Benzyl-3-{2(R)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butyryl}-oxazolidin-2-one
Under an inert atmosphere at -70° C. a solution of 4(R)-benzyl-3-isovaleroyl-oxazolidin-2-one (156.6 g) in tetrahydrofuran (500 ml) is added to a 1M lithium hexamethyldisilazide solution in tetrahydrofuran (600 ml, 0.60 mol) which has been diluted with anhydrous tetrahydrofuran (600 ml), and the batch is stirred for a further 75 minutes at -70° C. A solution of 4-methoxy-3-(3-methoxypropoxy)-benzyl bromide (145 g) in tetrahydrofuran (500 ml) is then added. The reaction temperature is allowed to rise from -70° C. to 0° C. over a period of 2 hours and the mixture is stirred at 0° C. for a further 18 hours. The reaction is quenched by the addition of a 10% aqueous ammonium chloride solution (250 ml) and the mixture is concentrated under reduced pressure and the aqueous phase is extracted with ethyl acetate (3×1.2 liters). The organic phases are washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. Purification of the residue by FC on silica gel (hexane/ethyl acetate 1:1) yields the title compound in the form of a white solid (202 g): m.p. 55°-56° C. (recrystallised from diethyl ether/hexane). Rf (ethyl acetate/hexane 1:2)=0.30. Anal. C27H35NO6 (469.58): calc. C, 69.06; H, 7.51; N, 2.98; found C, 68.64; H, 7.49; N, 3.12.

reactant | 4(R)-benzyl-3-isovaleroyl-oxazolidin-2-one | 156.6 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC(C)C)=O | C15H19NO3
reactant | lithium hexamethyldisilazide | 1M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-methoxy-3-(3-methoxypropoxy)-benzyl bromide | 145 g | COC1=C(C=C(CBr)C=C1)OCCCOC | C12H17BrO3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.60 mol, 600 ml | O1CCCC1 | C4H8O
product | 4(R)-Benzyl-3-{2(R)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butyryl}-oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)=O | C27H35NO6
